US08389555B2
STEP D: Preparation of naphthalene-2-carboxylic acid (4-hydroxy-butyl)-amide (2D).
43 mmol (8.2 g) naphthalen-2-carboxylic acid chloride is dissolved in 50 mL dioxane and dropwise added to a solution of 112 mmol (10.0 g) 4-amino-butan-1-ol in 100 mL dioxane and stirred overnight at room temperature. The mixture is then poured into 200 mL of ice water and filtrated. The white solid separated is dried under vacuum.

reactant | naphthalen-2-carboxylic acid chloride | 43 mmol, 8.2 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | 4-amino-butan-1-ol | 112 mmol, 10.0 g | NCCCCO | C4H11NO
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | naphthalene-2-carboxylic acid (4-hydroxy-butyl)-amide | OCCCCNC(=O)C1=CC2=CC=CC=C2C=C1 | C15H17NO2
